US05177087
To an ethanolic solution of sodium ethoxide prepared from 1.4 g of sodium and 200 ml of ethanol were added 5.36 g of pyridin-4-aldehyde and 27 g of (3-methoxycarbonyl-2-propenyl)triphenylphosphonium bromide and the mixture was allowed to stand at room temperature for 3 days. The solvent was then distilled off under reduced pressure and the residue was dissolved in water and acidified with 10% hydrochloric acid (pH ca. 5). The solution was washed with ethyl acetate and the aqueous layer was made basic (pH ca. 8) with 10% aqueous sodium hydroxide solution and extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure to give 7.0 g of methyl 5-(pyridin-4-yl)-2,4-pentadienoate as oil.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.4 g | [Na] | Na
reactant | pyridin-4-aldehyde | 5.36 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | (3-methoxycarbonyl-2-propenyl)triphenylphosphonium bromide | 27 g | [Br-].COC(=O)C=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | methyl 5-(pyridin-4-yl)-2,4-pentadienoate | 7.0 g | N1=CC=C(C=C1)C=CC=CC(=O)OC | C11H11NO2
